US05283248
tert-Butyl 4-[2-(carbamoylmethyl)-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate (980 mg, 2.53 mmol) is suspended in THF (15 ml) and treated with 1,1'-carbonyldiimidazole (760 mg, 2 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.2 ml). The reaction mixture is heated to 60° for 2 hours, whereby white crystals separate. The suspension is then cooled to 0°. The crystals are filtered off and recrystallized from ethanol. There are obtained 760 mg (73%) of tert-butyl 4-[5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido-[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate.

reactant | tert-Butyl 4-[2-(carbamoylmethyl)-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate | 2.53 mmol, 980 mg | C(N)(=O)CC1=NC2=C(N1C1CC1)C=C(C(=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C21H28FN5O3
reactant | 1,1'-carbonyldiimidazole | 2 mmol, 760 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.2 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido-[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate | 760 mg, 73% | C1(CC1)N1C=2N(C3=C1C=C(C(=C3)F)N3CCN(CC3)C(=O)OC(C)(C)C)C(NC(C2)=O)=O | C22H26FN5O4
